2119-06-22 07:38:00 Physician Resident Progress Note
Chief Complaint: Mild low back pain
   24 Hour Events:
   - Started levofloxacin for presumed CAP
   - Nasal swabs for Flu and put on Resp precautions. No resp antigens
   detected. Urine legionella negative. Sputum GS 4+ GPCs.
   - Extubated in AM; Increased work of breathing and alkalotic on ABG
   7.5/29/85/23. Desaturated to 80s on Ventimask. CXR with increasing
   pulmonary edema and worsening RLL consolidation. RR improved to 20s on
   CPap and sats remained in 90s. Became unfomfortable in CPAP after 2
   hours. Maintained on face mask Hiflow 100% and repeat ABG
   7.47/33/123/25.
   - Added CIWA scale as patient reported daily [**2-3**] etoh intake x 20 yrs
   and appeared tremulous prior to being febrile.
   - Ck trending up 276 > 301 > 327 > 329
   - Febrile to 104.8 rectal at 10 pm. Recultured. Started Zosyn and d/cd
   Levaquin.
   - TTE - Moderate [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4139**]. Mild LVH.  EF 40% infero-lateral and
   apical hypokinesis.  No thrombi. No AS. 1+ AI. 1+ MR. moderate
   pulmonary artery systolic hypertension
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2119-6-21**] 10:30 AM
   Vancomycin - [**2119-6-21**] 06:00 PM
   Piperacillin - [**2119-6-22**] 07:11 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2119-6-21**] 09:15 AM
   Fentanyl - [**2119-6-21**] 09:45 AM
   Metoprolol - [**2119-6-21**] 05:40 PM
   Furosemide (Lasix) - [**2119-6-21**] 06:00 PM
   Diazepam (Valium) - [**2119-6-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Mild chronic low back pain. Denies CP, SOB, nausea, dizziness,
   diaphoresis. Continued sputum production.
   Flowsheet Data as of  [**2119-6-22**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.4
C (104.8
   Tcurrent: 34.9
C (94.8
   HR: 62 (55 - 101) bpm
   BP: 121/68(80) {95/52(62) - 162/96(99)} mmHg
   RR: 21 (14 - 38) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,054 mL
                                                                    406 mL
   PO:
                                                                    420 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,274 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    535 mL
   Urine:
                                                                  1,875 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -496 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: Face tent, Other
   FiO2: 50%
   Physical Examination
   GENERAL: Elderly man with face mask in NAD. A and Ox3
   HEENT: PERRL, EOMI. Conjunctiva were pink, no pallor or cyanosis of the
   oral mucosa.
   NECK: Supple with JVP of 10 cm.
   CARDIAC: Mild burns on left anterior chest with erythema, no
   tenderness. PMI located in 5th intercostal space, midclavicular line.
   RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: Faint end expiratory crackles RIGHT base otherwise CTA
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. There is a
   burn from a hot water bottle in the left precordial area.
   Labs / Radiology
   116 K/uL
   12.0 g/dL
   100 mg/dL
   2.0 mg/dL
   25 mEq/L
   3.8 mEq/L
   40 mg/dL
   96 mEq/L
   135 mEq/L
   34.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2119-6-21**]  02:50 AM
                             [**2119-6-21**]  04:45 AM
                             [**2119-6-21**]  09:20 AM
                             [**2119-6-21**]  02:45 PM
                             [**2119-6-21**]  05:55 PM
                             [**2119-6-21**]  06:03 PM
                             [**2119-6-21**]  08:00 PM
                             [**2119-6-21**]  09:47 PM
                             [**2119-6-22**]  05:16 AM
   WBC
   8.4
   6.5
   6.7
   Hct
   35.7
   31.1
   34.7
   Plt
   98
   95
   116
   Cr
   2.0
   1.8
   2.0
   TropT
   0.99
   0.64
   0.62
   0.77
   TCO2
   24
   26
   23
   25
   Glucose
   122
   94
   100
   Other labs: PT / PTT / INR:14.2/33.4/1.2, CK / CKMB /
   Troponin-T:329/5/0.77, ALT / AST:118/193, Alk Phos / T Bili:36/1.0,
   Differential-Neuts:71.0 %, Band:4.0 %, Lymph:14.0 %, Mono:11.0 %,
   Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.8 g/dL, LDH:366 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   82M h/o HTN presents with >48 hours chest congestion, nausea found to
   have NSTEMI complicated by LV systolic dysfunction and acute pulmonary
   edema resulting in respiratory failure.
   .
   Respiratory failure/Pneumonia: ABG supports hypoxic resp failure. CXR
   supports worsening RLL pneumonia. Pneumonia diagnosis further supported
   by GS findings, fever, CXR and spurum production. Patient likely
   aquired pna as outpatient but was broadened to Vanco/Zosyn overnight
   given worsening. However, patient did improve oxygenation with CPAP and
   diuresis overnight which supports at least a component of pulmonary
   edema to his decompensation. Now saturating well on face tent.
   - Continue Vanco/Zosyn for now pending culture results
   -  F/u respiratory viral studies
   - Continue droplet precautions
   - Repeat ABG this am to ensure patient with hypercarbia
   - F/u culture data
   - CIS
   - Although patient does appear HD c/w sepsis plan to keep I/Os at least
   even to net 500cc positive
   .
   CORONARIES: NSTEMI. CKs appear to be close to peaked, but are still
   mildy uptrending. Echo with infero-lateral and apical hypokinesis. Plan
   for cath later on today.
   - Continue ASA, Beta-blocker, Plavix
   - Continue heparin IV gtt for medical management of NSTEMI
   - No integrillin given age and renal failure
   - Continue statin
   - Serial ECGs, [**Year (4 digits) 1174**] CEs to confirm declining
   - Plan for cath today. Plan for precath hydration with bicarb.
   .
   PUMP: Acute decompensated CHF with newly depressed EF 35-40% with
   inferolat and apical HK. - Beta-blocker
   - Consider ACEi once clear BPs and renal function stable
   - I/O goal even
   .
   RESPIRATORY FAILURE: Intubated at OSH for dyspnea thought to be
   secondary to decompensated heart failure in setting of ACS. Also cannot
   r/o PNA/infiltrate given leukocytosis, fever. Patient
s FiO2 has been
   weaned down overnight, has been tolerating pressure support well
   - continue mild diuresis as above
   - continue to wean down on ventilatory support with goal to extubate
   - patient was switched overnight from propofol and fentanyl to
   versed/fentanyl
   .
   FEVER: [**Month (only) 11**] be stress reaction in setting of MI, however was complaining
   of URI type symptoms at office visit in addition to SOB. No
   leukocytosis at OSH. If is indication of infection, sources could be
   pulmonary (cough, unable to r/o infiltrate on CXR), abdominal with
   increased transaminitis.
   - Hold on antibiotics for now as source unclear
   - [**Name (NI) **] fever curve, WBC count
   - Send blood cultures
   - f/u cultures from OSH (BCx, UCx)
   .
   ACUTE RENAL FAILURE: Cre 1.5 increased from baseline 1.0 in setting of
   diuresis for acute pulmonary edema and transient hypotension at OSH,
   most likely consistent with prerenal/ATN etiology however consider
   cardiogenic component in setting of new depressed EF.
   - Urine lytes
   - Renally dose meds
   - given mucomyst prior to cath
   .
   TRANSAMINITIS: Chronically elevated but higher than recent baseline,
   monitor daily in setting of initiating statin therapy. Also no
   abdominal pain, Tbili elevation to suggest acute cholangitis/process.
   Also acute hepatitis could be cause of increased elevation
   - [**Name (NI) 1174**] LFTs, abdominal exam
   - consider checking hepatitis serologies
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2119-6-21**] 02:25 AM
   20 Gauge - [**2119-6-21**] 05:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2119-06-23 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: NSTEMI
   24 Hour Events:
   - stable overnight
   - cath showed clean coronaries - possible there was thrombus/plaque
   that dissolved with medical tx
   - PCWP was 15, cardiac output 4.8 and cardiac index 2.25 indicating not
   volume overloaded
   - continued on ASA, Plavix ([**4-7**] month course) and heparin in case of
   thrombus though not seen on echo
   - sputum cx with Staph aureus, sensitivities pending, continued vanco
   - request sent for CD of OSH CXR - should be arrive in several days
   - temp to 101.9, HD stable, gave tylenol
   - kept him positive for fluid status since he has an infection and
   wedge pressure was not elevated
   - had 3 loose stools in last 24 hours
   History obtained from Patient
   Allergies:
   Morphine Unknown;
   Amlodipine Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2119-6-21**] 10:30 AM
   Vancomycin - [**2119-6-22**] 10:00 AM
   Piperacillin - [**2119-6-23**] 04:10 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2119-6-22**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Diarrhea
   Genitourinary: Foley
   Flowsheet Data as of  [**2119-6-23**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.7
C (99.8
   HR: 98 (62 - 103) bpm
   BP: 150/71(90) {108/56(66) - 150/89(100)} mmHg
   RR: 18 (18 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,059 mL
                                                                    454 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,219 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                    480 mL
   Urine:
                                                                  2,035 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,024 mL
                                                                    -26 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 0%
   SpO2: 92%
   ABG: 7.52/34/112/28/5
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, eccymosis on lips, tongue from
   intubation
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered, Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   131 K/uL
   11.7 g/dL
   117 mg/dL
   1.7 mg/dL
   28 mEq/L
   3.6 mEq/L
   32 mg/dL
   97 mEq/L
   137 mEq/L
   34.8 %
   6.6 K/uL
        [image002.jpg]
                             [**2119-6-21**]  09:20 AM
                             [**2119-6-21**]  02:45 PM
                             [**2119-6-21**]  05:55 PM
                             [**2119-6-21**]  06:03 PM
                             [**2119-6-21**]  08:00 PM
                             [**2119-6-21**]  09:47 PM
                             [**2119-6-22**]  05:16 AM
                             [**2119-6-22**]  02:19 PM
                             [**2119-6-22**]  03:05 PM
                             [**2119-6-23**]  05:17 AM
   WBC
   6.5
   6.7
   6.6
   Hct
   31.1
   34.7
   34.8
   Plt
   95
   116
   131
   Cr
   1.8
   2.0
   2.0
   1.8
   1.7
   TropT
   0.64
   0.62
   0.77
   0.61
   0.51
   TCO2
   26
   23
   25
   29
   Glucose
   94
   100
   109
   110
   117
   Other labs: PT / PTT / INR:13.5/33.4/1.2, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:118/193, Alk Phos / T Bili:36/1.0,
   Differential-Neuts:83.0 %, Band:0.0 %, Lymph:6.0 %, Mono:9.0 %, Eos:0.0
   %, Lactic Acid:1.5 mmol/L, Albumin:3.8 g/dL, LDH:366 IU/L, Ca++:7.8
   mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALCOHOL ABUSE
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 PULMONARY EDEMA
   82M h/o HTN presents with >48 hours chest congestion, nausea found to
   have NSTEMI complicated by LV systolic dysfunction and acute pulmonary
   edema resulting in respiratory failure.  Also with new loose stool.
   Respiratory failure/Pneumonia:  4+ GPC with prelim cx of S. aureus from
   sputum.  On Vano.  Tmax 101.9 but HD stable.  O2 sats in high 90's,
   occasionally drop to low 90's with agitartion but improve with face
   tent.  Currently on nc. Viral studies negative.
   -  Continue Vanco for now pending culture results, will d/c Zosyn
   - F/u culture data
   - CIS
   - will pull foley now that clinically improving
   CORONARIES: NSTEMI: Cath showed clean coronaries, NSTEMI possibly
   caused by thrombus that had since resolved with medical therapy.
   - Continue ASA, Beta-blocker, Plavix for 6-12 months of therapy
   - Continue heparin IV gtt for now which had been kept on overnight in
   case of ventricular thrombus though none seen on cath - will consider
   d/c today
   - Continue statin
   PUMP:  Decompenstation of CHF significantly improved.  Echo with newly
   depressed EF 35-40% with inferolat and apical HK.  Kept postive fluid
   balance overnight given septic picture in setting on large PNA
   - Beta-blocker
   - Consider ACEi once clear BPs and renal function stable
   - I/O goal even to +500cc today, will not further diurese
   ACUTE RENAL FAILURE: Cr trending down, at 1.7 this morning.  Baseline
   1.0, elevation is most likely consistent with prerenal/ATN etiology
   however consider cardiogenic component in setting of new depressed EF.
   - Renally dose meds
   TRANSAMINITIS: Chronically elevated but higher than recent baseline,
   monitor daily in setting of initiating statin therapy. Also no
   abdominal pain, Tbili elevation to suggest acute cholangitis/process.
   Also acute hepatitis could be cause of increased elevation.  Abd exam
   continues to be benign
   - trend LFTs, abdominal exam
   - will check hepatitis serologies if trend up. Had normal serologies
   within last 8 years.
   EtOH abuse: Patient endorses history of etoh abuse. Was on CIWA
   previously, now off.  Has essential tremor.
   ESSENTIAL TREMOR: On propnolol at baseline
   - will change back to home propanolol
    DIARRHEA:  Had loose stool x3 this morning, will send for C. diff
   given has been on abx, also 5 bands on diff though may be [**3-6**] large
   staph PNA.
   GERD:  will change to po pepcid as taking po
   ICU Care
   Nutrition: Cardiac Diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-6-23**] 06:13 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: call out to floor

2119-06-25 07:29:00 Physician Resident Progress Note
Chief Complaint: no complaints
   24 Hour Events:
   - Transferred back to CCU for increased work of breathing on the floor
   - CT Chest - Ground-glass opacities with central distribution, although
   more prominent on the right than on the left, are most consistent with
   pulmonary edema. Gave Lasix 40 mg IV. Put out 600 cc UOP.
   - Sputum [**6-21**] finalized as MSSA.
   - Cdiff neg. x2
   - ID c/s - D/c Vanco and Zosyn. Started Nafcillin for total 3 week
   course through [**2119-7-11**] (starting from [**6-21**] since Vanco started) and
   levofloxacin for totaly 8 day course [**2119-6-24**] through [**2119-7-2**].
   - ABG on 5L FM - 7.5/26/89/21
   - Inutbated 20:15 for increase WOB and peripheral sats 80s with NRB.
   Post intubation 7.45/34/66/24. Mucous plug removed and peripheral sats
   in high 90s.
   - A line placed. Gas 7.4/44/90/28 on 450 cc Respiratory rate: 20 PEEP:
   8 cm/h2o FIO2: 100
   - Dopamine initiated for MAPs in 50s. As high as 8 but weaned to 4. Had
   tachycardia to 120s and transitioned to levophed.
   - RIGHT IJ placed
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2119-6-22**] 10:00 AM
   Piperacillin - [**2119-6-23**] 04:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-6-24**] 02:00 PM
   Levofloxacin - [**2119-6-24**] 04:00 PM
   Nafcillin - [**2119-6-25**] 05:34 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2119-6-24**] 08:25 PM
   Furosemide (Lasix) - [**2119-6-24**] 08:38 PM
   Midazolam (Versed) - [**2119-6-24**] 08:44 PM
   Fentanyl - [**2119-6-25**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-6-25**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40
C (104
   Tcurrent: 36.3
C (97.4
   HR: 62 (62 - 109) bpm
   BP: 101/47(60) {76/44(52) - 171/98(139)} mmHg
   RR: 24 (10 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,248 mL
                                                                  1,021 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  2,008 mL
                                                                    961 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    555 mL
   Urine:
                                                                  1,255 mL
                                                                    505 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,393 mL
                                                                    466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.40/39/141/22/0
   Ve: 11 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, eccymosis on lips, tongue from
   intubation
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered, Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   189 K/uL
   11.2 g/dL
   146 mg/dL
   1.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   30 mg/dL
   103 mEq/L
   137 mEq/L
   32.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2119-6-22**]  05:16 AM
                             [**2119-6-22**]  02:19 PM
                             [**2119-6-22**]  03:05 PM
                             [**2119-6-23**]  05:17 AM
                             [**2119-6-24**]  12:33 PM
                             [**2119-6-24**]  03:51 PM
                             [**2119-6-24**]  08:45 PM
                             [**2119-6-24**]  11:47 PM
                             [**2119-6-25**]  04:23 AM
                             [**2119-6-25**]  04:51 AM
   WBC
   6.7
   6.6
   8.9
   Hct
   34.7
   34.8
   32.5
   Plt
   116
   131
   189
   Cr
   2.0
   1.8
   1.7
   1.8
   TropT
   0.61
   0.51
   TCO2
   29
   30
   21
   24
   28
   25
   Glucose
   109
   110
   117
   146
   Other labs: PT / PTT / INR:15.6/31.6/1.4, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:118/193, Alk Phos / T Bili:36/1.0,
   Differential-Neuts:65.0 %, Band:5.0 %, Lymph:17.0 %, Mono:8.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.8 g/dL, LDH:366 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   82M h/o HTN presents with >48 hours chest congestion, nausea found to
   have NSTEMI complicated by LV systolic dysfunction and acute pulmonary
   edema resulting in respiratory failure.  Also with new loose stool.
   Respiratory failure/Pneumonia:  4+ GPC with prelim cx of S. aureus from
   sputum.  On Vano.  Tmax 101.9 but HD stable.  O2 sats in high 90's,
   occasionally drop to low 90's with agitartion but improve with face
   tent.  Currently on nc. Viral studies negative.
   -  Continue Vanco for now pending culture results, will d/c Zosyn
   - F/u culture data
   - CIS
   - will pull foley now that clinically improving
   CORONARIES: NSTEMI: Cath showed clean coronaries, NSTEMI possibly
   caused by thrombus that had since resolved with medical therapy.
   - Continue ASA, Beta-blocker, Plavix for 6-12 months of therapy
   - Continue heparin IV gtt for now which had been kept on overnight in
   case of ventricular thrombus though none seen on cath - will consider
   d/c today
   - Continue statin
   PUMP:  Decompenstation of CHF significantly improved.  Echo with newly
   depressed EF 35-40% with inferolat and apical HK.  Kept postive fluid
   balance overnight given septic picture in setting on large PNA
   - Beta-blocker
   - Consider ACEi once clear BPs and renal function stable
   - I/O goal even to +500cc today, will not further diurese
   ACUTE RENAL FAILURE: Cr trending down, at 1.7 this morning.  Baseline
   1.0, elevation is most likely consistent with prerenal/ATN etiology
   however consider cardiogenic component in setting of new depressed EF.
   - Renally dose meds
   TRANSAMINITIS: Chronically elevated but higher than recent baseline,
   monitor daily in setting of initiating statin therapy. Also no
   abdominal pain, Tbili elevation to suggest acute cholangitis/process.
   Also acute hepatitis could be cause of increased elevation.  Abd exam
   continues to be benign
   - trend LFTs, abdominal exam
   - will check hepatitis serologies if trend up. Had normal serologies
   within last 8 years.
   EtOH abuse: Patient endorses history of etoh abuse. Was on CIWA
   previously, now off.  Has essential tremor.
   ESSENTIAL TREMOR: On propnolol at baseline
   - will change back to home propanolol
    DIARRHEA:  Had loose stool x3 this morning, will send for C. diff
   given has been on abx, also 5 bands on diff though may be [**3-6**] large
   staph PNA.
   GERD:  will change to po pepcid as taking po
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2119-6-24**] 11:00 AM
   20 Gauge - [**2119-6-24**] 10:14 PM
   Arterial Line - [**2119-6-24**] 11:29 PM
   Multi Lumen - [**2119-6-25**] 02:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-06-26 07:09:00 Physician Resident Progress Note
Chief Complaint:  Shock, ARDS
   24 Hour Events:
 BLOOD CULTURED - At [**2119-6-26**] 06:08 AM
   x2 via a-line/RIJ
 SPUTUM CULTURE - At [**2119-6-26**] 06:08 AM
 URINE CULTURE - At [**2119-6-26**] 06:08 AM
 FEVER - 101.9
F - [**2119-6-26**] 05:00 AM
   - Restarted levophed for low MAP's in am
   - Bolused total of 10L of fluid over last 24 hours to raise CVP to [**9-13**]
   - changed to maintenance early this am and weaned pressor, but dropped
   pressures again in setting of spike to 101.4 at 6am this morning -
   restarted IVF boluses and levo
   -  Vent adjustments:
   ** increased tidal volume to 500 and decreased FiO2 to 40%--> gas:
   7.38/31/75/19 resp alkalosis and non-AG met acidosis - probably from NS
   boluses
   ** changed to pressure support during afternoon, ensured low tidal
   volumes, tolerated well
   ** Changed back to AC overnight.
   ** Switched to LR boluses, repeat gas in afternoon 7.36/33/106/19.  **
   had increased work of breathing in setting of spike this morning  - gas
   7.36/34/106/20
   - Pulm c/s advised to continue current management, given possibility of
   pulmonary alveolar hemorrhage (though very unlikely) and they agreed
   with d/c of anticoagulation.  Given red cells in urine - sent [**Doctor First Name **] and
   ANCA to r/o vasculitic process, have low threshold for broadening abx
   though defer to ID
   - ID rec to continue nafcillin and levo, did not add on any additional
   abx
   - Updated family
   - d/c'ed plavix and propanalol
   - no new culture data
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-6-24**] 02:00 PM
   Levofloxacin - [**2119-6-24**] 04:00 PM
   Nafcillin - [**2119-6-26**] 03:41 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2119-6-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2119-6-25**] 08:35 PM
   Fentanyl - [**2119-6-26**] 05:51 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Intubated, sedated
   Flowsheet Data as of  [**2119-6-26**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.8
C (101.9
   HR: 82 (67 - 93) bpm
   BP: 110/53(73) {88/46(60) - 153/72(96)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 13 (2 - 19)mmHg
   Total In:
                                                                 11,045 mL
                                                                  3,009 mL
   PO:
   TF:
                                                                    104 mL
                                                                     70 mL
   IVF:
                                                                 10,701 mL
                                                                  2,839 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    510 mL
   Urine:
                                                                  1,635 mL
                                                                    510 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  9,360 mL
                                                                  2,499 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 507 (455 - 507) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.36/34/106/19/-5
   Ve: 11.4 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General appearance:  Sedated, intubated; NGT in place
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, eccymosis on lips, tongue from
   prior intubation
   Cardiovascular: RRR, no m/r/g, No jvp appreciated
   Chest: Crackles RIGHT base
   Abd: Moderately distended, no tender, no shifting dullness
   Ext: WWP, no c/c/e
   Labs / Radiology
   252 K/uL
   11.7 g/dL
   112 mg/dL
   2.1 mg/dL
   19 mEq/L
   4.4 mEq/L
   34 mg/dL
   108 mEq/L
   139 mEq/L
   35.0 %
   10.2 K/uL
        [image002.jpg]
   Ca 7.1, Mg 2.1, Phos 3.0
   INR 2.3, PTT 35.3
   LFTS Transaminitis improving, Tbili 4.9
   Fibrinogen elevated, FDP 10-40
                             [**2119-6-24**]  03:51 PM
                             [**2119-6-24**]  08:45 PM
                             [**2119-6-24**]  11:47 PM
                             [**2119-6-25**]  04:23 AM
                             [**2119-6-25**]  04:51 AM
                             [**2119-6-25**]  03:52 PM
                             [**2119-6-25**]  06:39 PM
                             [**2119-6-25**]  08:48 PM
                             [**2119-6-26**]  04:24 AM
                             [**2119-6-26**]  05:32 AM
   WBC
   8.9
   10.2
   Hct
   32.5
   33.1
   35.0
   Plt
   189
   252
   Cr
   1.8
   2.0
   2.1
   TCO2
   21
   24
   28
   25
   19
   19
   20
   Glucose
   146
   106
   112
   Other labs: PT / PTT / INR:23.5/35.3/2.3, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:118/193, Alk Phos / T Bili:36/1.0,
   Differential-Neuts:70.0 %, Band:1.0 %, Lymph:14.0 %, Mono:13.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.8 g/dL, LDH:366 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Urine culture ([**6-24**], [**6-26**])
 NGTD
   Blood culture ([**6-21**]
 NGTD
   Sputum culture ([**6-25**], [**6-26**])
 NGTD
   Assessment and Plan
   82M with hypertension, essential tremor admitted with NSTEMI, now with
   MSSA pneumonia complicated by sepsis, ARDS
   1. Hypoxic respiratory failure/ARDS:  Tolerated pressure support
   briefly yesterday. Now currently on assist control. Large A-a gradient
   by blood gas. Patient with component of respiratory alkalosis, although
   this may be compensatory given metabolic acidosis.
   -          Pneumonia treatment as below
   -          Vent parameters per ARDSnet protocol
   -          Pulmonary recs
   2. Pneumonia/sepsis:  MSSA pneumonia. Patient with persistent fevers,
   although lower grade. ID involved.
   -          Discuss with ID
 given persistent fevers, should we expand
   coverage for anaerobes?
   -          Continue Nafcillin for total 3 week course through [**2119-7-11**]
   (start date [**6-21**], Vancomycin initiation date) and levofloxacin for
   total 8 day course ([**2119-6-24**] through [**2119-7-2**])
   -          Follow culture data
   -          Maintain CVP 8-12, MAP>60; if falls below this, bolus IVF
   (LR given non-anion gap metabolic acidosis potentially secondary to
   NS); wean Levophed as tolerated
   -          CIS
   3. Coagulopathy:  INR elevated to 2.4, confirmed on recheck.
   Differential includes DIC (FDP 10-40, although elevated fibrinogen and
   PTT normal), shock liver (LFTs improved since admission). Could also be
   nutritional deficiency.
   -          Vitamin K PO x1
   -          Recheck coags, FDP, fibrinogen this afternoon
   4. s/p NSTEMI: Cath showed clean coronaries, NSTEMI possibly caused by
   thrombus that had since resolved with medical therapy.  Likely demand
   ischemia in the setting of pneumonia.
   -          Continue ASA
   -          Hold beta-blocker in the setting of sepsis
   -          Hold Plavix at this time given concern for PAH (very low
   likelihood)
   -          Continue statin
   5. PUMP:  TTE with newly depressed EF 35-40% with inferolateral and
   apical hypokinesis
   -          Beta-blocker on hold as above
   -          Would benefit from ACE inhibitor once over acute illness
   -          Hold Plavix and heparin given mention of potential PAH,
   although this is unlikely; will likely restart heparin in next 1-2 days
   given concern for thrombus formation at site of hypokinesis
   6. ACUTE RENAL FAILURE:  Baseline 1.0. Creatinine slowly trending up,
   likely prerenal given sepsis.
   -          Renally dose meds
   ICU Care
   Nutrition:  Tubefeeds
   Glycemic Control:
   Lines:
   22 Gauge - [**2119-6-24**] 11:00 AM
   20 Gauge - [**2119-6-24**] 10:14 PM
   Arterial Line - [**2119-6-24**] 11:29 PM
   Multi Lumen - [**2119-6-25**] 02:49 AM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-06-27 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2119-6-27**] 12:26 AM
 FEVER - 102.8
F - [**2119-6-27**] 12:24 AM
   - Conjugated hyperbilirubinemia
   - Vitamin K 5mg PO x1
   - ID - Continue antibiotics, continue surveillance cultures. Persistent
   fevers not concerning at this point. If continues, consider CT chest to
   reassess for abscess.
   - Pulmonary - Cautious fluid resuscitation, no plan for bronchoscopy
   - [**Doctor First Name **], ANCA pending
   - 2:00PM - LFTs, hyperbilirubinemia, platelet count, coagulopathy,
   fibrinogen, FDP stable
   - Levophed stopped at 2:30pm, restarted at 6:00pm
   - 6pm:  7.36/34/83, Lactate 1.3
   - No new culture data (as of 10:30pm)
   - 12am:  Spiked to 102.8 (rectal); hypertensive, and Levophed was
   weaned; blood cultures sent; blood pressure slowly came down, MAPs
   remained over 55
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-6-24**] 02:00 PM
   Levofloxacin - [**2119-6-26**] 04:21 PM
   Nafcillin - [**2119-6-27**] 04:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2119-6-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2119-6-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Intubated, sedated
   Flowsheet Data as of  [**2119-6-27**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.2
C (100.8
   HR: 86 (71 - 105) bpm
   BP: 109/51(70) {82/44(55) - 134/63(84)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 11 (9 - 13)mmHg
   Total In:
                                                                  4,733 mL
                                                                    777 mL
   PO:
   TF:
                                                                    350 mL
                                                                    223 mL
   IVF:
                                                                  3,914 mL
                                                                    425 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    260 mL
   Urine:
                                                                  1,310 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,423 mL
                                                                    517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 5
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 58
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.36/36/116/18/-4
   Ve: 10.9 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General appearance:  Sedated, intubated; NGT in place
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, eccymosis on lips, tongue from
   prior intubation
   Cardiovascular: RRR, no m/r/g, No jvp appreciated
   Chest: Crackles RIGHT base
   Abd: Moderately distended, no tender, no shifting dullness
   Ext: WWP, no c/c/e
   Labs / Radiology
   294 K/uL
   10.5 g/dL
   119 mg/dL
   2.5 mg/dL
   18 mEq/L
   3.6 mEq/L
   40 mg/dL
   110 mEq/L
   139 mEq/L
   32.3 %
   9.8 K/uL
        [image002.jpg]
   Ca: 6.6 Mg: 2.0 P: 3.2
   N:56 Band:0 L:22 M:14 E:2 Bas:0 Atyps: 6
   PT: 16.3
   PTT: 33.9
   INR: 1.5
   Lactate:1.3
                             [**2119-6-25**]  04:51 AM
                             [**2119-6-25**]  03:52 PM
                             [**2119-6-25**]  06:39 PM
                             [**2119-6-25**]  08:48 PM
                             [**2119-6-26**]  04:24 AM
                             [**2119-6-26**]  05:32 AM
                             [**2119-6-26**]  02:37 PM
                             [**2119-6-26**]  06:05 PM
                             [**2119-6-27**]  05:25 AM
                             [**2119-6-27**]  05:39 AM
   WBC
   10.2
   9.8
   Hct
   33.1
   35.0
   32.3
   Plt
   [**Telephone/Fax (3) 6197**]
   Cr
   2.0
   2.1
   2.5
   TCO2
   25
   19
   19
   20
   20
   21
   Glucose
   106
   112
   119
   Other labs: PT / PTT / INR:24.7/36.0/2.4, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:59/106, Alk Phos / T Bili:59/4.7,
   Differential-Neuts:70.0 %, Band:1.0 %, Lymph:14.0 %, Mono:13.0 %,
   Eos:0.0 %, Fibrinogen:620 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6
   g/dL, LDH:366 IU/L, Ca++:6.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Blood, urine, sputum cultures
 Since [**6-22**], NGTD
   Assessment and Plan
   82M with hypertension, essential tremor admitted with NSTEMI, now with
   MSSA pneumonia complicated by sepsis, enlarging right sided infiltrate
   1. Hypoxic respiratory failure:  Secondary to multilobar pneumonia.
   Continues on AC; RSBI 58.
   -          Vent parameters per ARDSnet protocol
   -          Pulmonary recs
   -          Pneumonia treatment as below
   -          Prior to extubation, will need diuresis given large volume
   resuscitation during this hospital course
 will go ahead and start
   today
   2. Pneumonia/sepsis:  MSSA pneumonia. Patient with persistent fevers.
   ID involved.
   -          Repeat CT chest to assess for loculation or worsening
   pleural effusion
   -          Add Flagyl for anaerobic coverage
   -          Continue Nafcillin for total 3 week course through [**2119-7-11**]
   (start date [**6-21**], Vancomycin initiation date) and levofloxacin for
   total 8 day course ([**2119-6-24**] through [**2119-7-2**])
   -          Follow culture data
   -          Maintain CVP 8-12, MAP>60; if falls below this, bolus IVF;
   wean Levophed as tolerated
   -          CIS
   -          RUQ ultrasound to assess for cholecystitis
   3. Coagulopathy:  INR improved to 1.4 with vitamin K 5mg PO x1.
   Differential includes DIC (FDP 10-40, although elevated fibrinogen and
   PTT normal), shock liver (LFTs improved since admission). Could also be
   nutritional deficiency, although this is a rapid improvement.
   4. Hyperbilirubinemia:  Direct. Thus DIC less likely. This may be
   secondary to cholestasis in setting of acute illness.
   -          Trend bilirubin
   -          RUQ ultrasound to assess for cholecystitis
   5. Abnormal diff:  Differential for monocytosis includes infectious
   etiology, malignancy. Difficult to assess in setting of sepsis.
   6. Acute renal failure:  Baseline 1.0. Creatinine slowly trending up,
   likely prerenal given sepsis.
   -          Renally dose meds
   7. s/p NSTEMI: Cath showed clean coronaries, NSTEMI possibly caused by
   thrombus that had since resolved with medical therapy.  Likely demand
   ischemia in the setting of pneumonia.
   -          Continue ASA
   -          Hold beta-blocker in the setting of sepsis
   -          Hold Plavix at this time
   -          Continue statin
   8. PUMP:  TTE with newly depressed EF 35-40% with inferolateral and
   apical hypokinesis
   -          Beta-blocker on hold as above
   -          Would benefit from ACE inhibitor once over acute illness
   -          Restart heparin gtt for prevention of thrombus formation
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2119-6-27**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-6-24**] 10:14 PM
   Arterial Line - [**2119-6-24**] 11:29 PM
   Multi Lumen - [**2119-6-25**] 02:49 AM
   Prophylaxis:
   DVT:  Heparin 5000 UNIT SC TID
   Stress ulcer:  Famotidine 20 mg PO Q24H
   VAP:  Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Staying in CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 1225**].
   I would add the following remarks:
   Medical Decision Making
   Continues to spike temperatures.  Continue management for ARDS in the
   setting of MSSA pneumonia.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2119-6-27**] 12:16 ------

2119-06-28 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2119-6-27**] 08:20 PM
 FEVER - 101.6
F - [**2119-6-27**] 04:00 PM
   - Decision made to keep patient on CCU service instead of transfer to
   MICU
   - Added Flagyl IV for anaerobic coverage
   - CT Torso - Wet read - Worsening bilateral edema, although worsening
   underlying penumonia is an increasing likely possibility given
   persistent fevers. Abd benign.
   - RUQ u/s - Wet read - Diffusely echogenic liver, compatible with fatty
   infiltration. No focal hepatic lesion. No biliary dilatation.
   - Started on lasix gtt 5 mg/hr. +400 cc at 7 pm and increased to 8
   mg/hr. Good UOP but still +400 cc at MN.
   - Cr 2.5 > 2.7 > 2.9
   - Levophed weaned off 1pm. No pressors since.
   - Rechecked BNP - [**Numeric Identifier 6066**] (admission) > 5926
   - Pulmonary recs - Follow central venous O2 (First O2 sat 73) Consider
   am cortisol if persistent hypotension. Advise CT torso. Consider
   amylase lipase. Decrease FiO2 to 0.4. Pulm toilet, HOB up, Peridex,
   Daily wakening and weaning trials.
   - IJ pulled back 2 cm. Repeat CXR unremarkable.
   - Diarrhea at 2300. Placed flexiseal and sent for C diff.
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2119-6-26**] 04:21 PM
   Metronidazole - [**2119-6-27**] 11:16 PM
   Nafcillin - [**2119-6-28**] 05:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2119-6-27**] 07:57 AM
   Fentanyl - [**2119-6-27**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2119-6-28**] 01:00 AM
   Midazolam (Versed) - [**2119-6-28**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Sedated, responds to commands
   Flowsheet Data as of  [**2119-6-28**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.6
C (101.4
   HR: 89 (78 - 95) bpm
   BP: 146/61(85) {86/40(54) - 158/69(95)} mmHg
   RR: 18 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 10 (9 - 13)mmHg
   Total In:
                                                                  2,555 mL
                                                                    416 mL
   PO:
   TF:
                                                                    464 mL
                                                                     57 mL
   IVF:
                                                                  1,692 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                  2,147 mL
                                                                  1,880 mL
   Urine:
                                                                  2,147 mL
                                                                  1,580 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    408 mL
                                                                 -1,464 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 537 (537 - 537) mL
   RR (Set): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/36/104/18/-2
   Ve: 9.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General appearance:  Sedated, intubated; NGT in place; squeezes hands,
   moves feet
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, eccymosis on lips, tongue from
   prior intubation
   Cardiovascular: RRR, no m/r/g, No JVP appreciated
   Chest:  Decreased breath sounds right base
   Abd:  Moderately distended, no tender, no shifting dullness
   Ext: WWP, no c/c/e
   Skin:  Right buttock with dressing
   Labs / Radiology
   336 K/uL
   11.0 g/dL
   113 mg/dL
   2.8 mg/dL
   18 mEq/L
   4.1 mEq/L
   47 mg/dL
   107 mEq/L
   139 mEq/L
   33.4 %
   11.0 K/uL
        [image002.jpg]
   N:58.1 L:33.9 M:2.8 E:4.6 Bas:0.7    Ca: 8.0 Mg: 2.5 P: 4.5
   PT: 14.2
   PTT: 36.2
   INR: 1.2
                             [**2119-6-26**]  04:24 AM
                             [**2119-6-26**]  05:32 AM
                             [**2119-6-26**]  02:37 PM
                             [**2119-6-26**]  06:05 PM
                             [**2119-6-27**]  05:25 AM
                             [**2119-6-27**]  05:39 AM
                             [**2119-6-27**]  02:02 PM
                             [**2119-6-27**]  04:09 PM
                             [**2119-6-28**]  04:17 AM
                             [**2119-6-28**]  04:46 AM
   WBC
   10.2
   9.8
   11.0
   Hct
   35.0
   32.3
   31.9
   33.4
   Plt
   [**Telephone/Fax (3) 6247**]36
   Cr
   2.1
   2.5
   2.9
   2.7
   2.8
   TCO2
   20
   20
   21
   23
   Glucose
   112
   119
   131
   113
   Other labs: PT / PTT / INR:14.2/36.2/1.2, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:46/93, Alk Phos / T Bili:60/4.3,
   Differential-Neuts:58.1 %, Band:0.0 %, Lymph:33.9 %, Mono:2.8 %,
   Eos:4.6 %, Fibrinogen:620 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.6
   g/dL, LDH:366 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.5 mg/dL
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2119-6-28**]):
         Feces negative for C.difficile toxin A & B by EIA.
RESPIRATORY CULTURE (Preliminary):
      ? OROPHARYNGEAL FLORA ABSENT.
         YEAST.    SPARSE GROWTH.
   Blood culture ([**6-23**]
):  No growth to date.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 KNOWLEDGE DEFICIT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALCOHOL ABUSE
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 PULMONARY EDEMA
   82M with hypertension, essential tremor admitted with NSTEMI, now with
   MSSA pneumonia complicated by sepsis, enlarging right sided infiltrate
   1. Hypoxic respiratory failure:  Secondary to multilobar pneumonia.
   Continues on AC; RSBI 58.
   -          Wean to pressure support today as toleraed
   -          Pulmonary recs
   -          Pneumonia treatment as below
   -          Prior to extubation, will need diuresis given large volume
   resuscitation during this hospital course
 will go ahead and start
   today
   2. Pneumonia/sepsis:  MSSA pneumonia. Patient with persistent fevers.
   ID involved.
   -          Repeat CT chest to assess for loculation or worsening
   pleural effusion
   -          Add Flagyl for anaerobic coverage
   -          Continue Nafcillin for total 3 week course through [**2119-7-11**]
   (start date [**6-21**], Vancomycin initiation date) and levofloxacin for
   total 8 day course ([**2119-6-24**] through [**2119-7-2**])
   -          Follow culture data
   -          Maintain CVP 8-12, MAP>60; if falls below this, bolus IVF;
   wean Levophed as tolerated
   -          CIS
   -          RUQ ultrasound to assess for cholecystitis
   3. Coagulopathy:  INR improved to 1.4 with vitamin K 5mg PO x1.
   Differential includes DIC (FDP 10-40, although elevated fibrinogen and
   PTT normal), shock liver (LFTs improved since admission). Could also be
   nutritional deficiency, although this is a rapid improvement.
   4. Hyperbilirubinemia:  Direct. Thus DIC less likely. This may be
   secondary to cholestasis in setting of acute illness.
   -          Trend bilirubin
   -          RUQ ultrasound to assess for cholecystitis
   5. Abnormal diff:  Differential for monocytosis includes infectious
   etiology, malignancy. Difficult to assess in setting of sepsis.
   6. Acute renal failure:  Baseline 1.0. Creatinine slowly trending up,
   likely prerenal given sepsis.
   -          Renally dose meds
   7. s/p NSTEMI: Cath showed clean coronaries, NSTEMI possibly caused by
   thrombus that had since resolved with medical therapy.  Likely demand
   ischemia in the setting of pneumonia.
   -          Continue ASA
   -          Hold beta-blocker in the setting of sepsis
   -          Hold Plavix at this time
   -          Continue statin
   8. PUMP:  TTE with newly depressed EF 35-40% with inferolateral and
   apical hypokinesis
   -          Beta-blocker on hold as above
   -          Would benefit from ACE inhibitor once over acute illness
   -          Restart heparin gtt for prevention of thrombus formation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2119-6-28**] 01:20 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2119-6-24**] 11:29 PM
   Multi Lumen - [**2119-6-25**] 02:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-06-28 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2119-6-27**] 08:20 PM
 FEVER - 101.6
F - [**2119-6-27**] 04:00 PM
   - Decision made to keep patient on CCU service instead of transfer to
   MICU
   - Added Flagyl IV for anaerobic coverage
   - CT Torso - Wet read - Worsening bilateral edema, although worsening
   underlying penumonia is an increasing likely possibility given
   persistent fevers. Abd benign.
   - RUQ u/s - Wet read - Diffusely echogenic liver, compatible with fatty
   infiltration. No focal hepatic lesion. No biliary dilatation.
   - Started on lasix gtt 5 mg/hr. +400 cc at 7 pm and increased to 8
   mg/hr. Good UOP but still +400 cc at MN.
   - Cr 2.5 > 2.7 > 2.9
   - Levophed weaned off 1pm. No pressors since.
   - Rechecked BNP - [**Numeric Identifier 6066**] (admission) > 5926
   - Pulmonary recs - Follow central venous O2 (First O2 sat 73) Consider
   am cortisol if persistent hypotension. Advise CT torso. Consider
   amylase lipase. Decrease FiO2 to 0.4. Pulm toilet, HOB up, Peridex,
   Daily wakening and weaning trials.
   - IJ pulled back 2 cm. Repeat CXR unremarkable.
   - Diarrhea at 2300. Placed flexiseal and sent for C diff.
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2119-6-26**] 04:21 PM
   Metronidazole - [**2119-6-27**] 11:16 PM
   Nafcillin - [**2119-6-28**] 05:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2119-6-27**] 07:57 AM
   Fentanyl - [**2119-6-27**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2119-6-28**] 01:00 AM
   Midazolam (Versed) - [**2119-6-28**] 04:15 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: There are no changes to the review of systems
   Flowsheet Data as of  [**2119-6-28**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.6
C (101.4
   HR: 103 (78 - 103) bpm
   BP: 124/53(74) {86/40(54) - 158/69(95)} mmHg
   RR: 14 (14 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 11 (9 - 13)mmHg
   Total In:
                                                                  2,555 mL
                                                                    428 mL
   PO:
   TF:
                                                                    464 mL
                                                                     61 mL
   IVF:
                                                                  1,692 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  2,147 mL
                                                                  2,180 mL
   Urine:
                                                                  2,147 mL
                                                                  1,880 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    408 mL
                                                                 -1,752 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 537 (537 - 537) mL
   RR (Set): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/36/104/18/-2
   Ve: 9.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   336 K/uL
   11.0 g/dL
   113 mg/dL
   2.8 mg/dL
   18 mEq/L
   4.1 mEq/L
   47 mg/dL
   107 mEq/L
   139 mEq/L
   33.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2119-6-26**]  04:24 AM
                             [**2119-6-26**]  05:32 AM
                             [**2119-6-26**]  02:37 PM
                             [**2119-6-26**]  06:05 PM
                             [**2119-6-27**]  05:25 AM
                             [**2119-6-27**]  05:39 AM
                             [**2119-6-27**]  02:02 PM
                             [**2119-6-27**]  04:09 PM
                             [**2119-6-28**]  04:17 AM
                             [**2119-6-28**]  04:46 AM
   WBC
   10.2
   9.8
   11.0
   Hct
   35.0
   32.3
   31.9
   33.4
   Plt
   [**Telephone/Fax (3) 6247**]36
   Cr
   2.1
   2.5
   2.9
   2.7
   2.8
   TCO2
   20
   20
   21
   23
   Glucose
   112
   119
   131
   113
   Other labs: PT / PTT / INR:14.2/36.2/1.2, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:46/93, Alk Phos / T Bili:60/4.3,
   Differential-Neuts:58.1 %, Band:0.0 %, Lymph:33.9 %, Mono:2.8 %,
   Eos:4.6 %, Fibrinogen:620 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.6
   g/dL, LDH:366 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 KNOWLEDGE DEFICIT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALCOHOL ABUSE
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 PULMONARY EDEMA
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2119-6-28**] 01:20 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2119-6-24**] 11:29 PM
   Multi Lumen - [**2119-6-25**] 02:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-06-30 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Successful extubation
   - RUE ultrasound ([**2119-6-29**]):  Preliminary Report; No DVT in the right
   arm.
   - Propranolol restarted
   - 7pm:  I/O -400cc
   - No ID or pulmonary recs
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2119-6-28**] 03:21 PM
   Metronidazole - [**2119-6-29**] 10:00 PM
   Nafcillin - [**2119-6-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2119-6-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2119-6-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain, sob, n/v
   Flowsheet Data as of  [**2119-6-30**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 35.8
C (96.4
   HR: 79 (69 - 94) bpm
   BP: 119/47(69) {101/42(61) - 170/71(104)} mmHg
   RR: 25 (12 - 25) insp/min
   SpO2: 94% 4 L NC
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.9 kg (admission): 89 kg
   Height: 72 Inch
    CVP: 0 (0 - 8)mmHg
   Total In:
                                                                  1,843 mL
                                                                    379 mL
   PO:
   TF:
   IVF:
                                                                  1,413 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  2,168 mL
                                                                    885 mL
   Urine:
                                                                  1,893 mL
                                                                    435 mL
   NG:
   Stool:
                                                                    275 mL
                                                                    450 mL
   Drains:
   Balance:
                                                                   -325 mL
                                                                   -507 mL
   Respiratory support
   Physical Examination
   General:  NAD, Follows commands, A and O x2 ([**Location (un) **], Ma)
   Head, Ears, Nose, Throat:  Eccymosis on lips (stable)
   Cardiovascular: RRR, no m/r/g, No JVP appreciated
   Chest:   crackles RIGHT base
   Abd:   Moderately distended, nontender, normoactive bowel sounds
   Ext:  right > left upper extremity edema; no lower extremity edema;
   radial, DP pulses 2+
   Skin:  Right buttock with dressing
   Labs / Radiology
   349 K/uL
   9.6 g/dL
   105 mg/dL
   2.9 mg/dL
   21 mEq/L
   3.7 mEq/L
   56 mg/dL
   111 mEq/L
   145 mEq/L
   27.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2119-6-28**]  08:29 PM
                             [**2119-6-29**]  05:20 AM
                             [**2119-6-29**]  05:29 AM
                             [**2119-6-29**]  10:24 AM
                             [**2119-6-29**]  01:41 PM
                             [**2119-6-29**]  04:41 PM
                             [**2119-6-29**]  04:54 PM
                             [**2119-6-30**]  04:00 AM
                             [**2119-6-30**]  04:15 AM
                             [**2119-6-30**]  06:13 AM
   WBC
   11.0
   10.7
   Hct
   27.8
   27.9
   Plt
   326
   349
   Cr
   2.8
   2.9
   2.9
   2.9
   TCO2
   22
   21
   20
   24
   20
   23
   Glucose
   159
   133
   111
   105
   Other labs: PT / PTT / INR:15.3/42.2/1.4, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:32/75, Alk Phos / T Bili:60/2.7,
   Differential-Neuts:58.1 %, Band:0.0 %, Lymph:33.9 %, Mono:2.8 %,
   Eos:4.6 %, Fibrinogen:620 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.3
   g/dL, LDH:348 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   82M with hypertension, essential tremor admitted with NSTEMI, now with
   MSSA pneumonia complicated by sepsis, ARDS
   #. Hypoxic respiratory failure:  Secondary to multilobar pneumonia.
   Extubated yesterday and now with hypoxemia and lowering CO2.
   Respiratory alkalosis likely due tachypnea in setting of hypoxemia.
   -          Increase oxygen by Nc. Repeat ABG
   -          Pneumonia treatment as below
   -          Albuterol nebs and mucomyst
   -          Diurese to help improve oxygenation. Start Lasix gtt at
   8mg/hr with goal net negative 1 L today
   -          Apreciate Pulm input
   #. Pneumonia/sepsis:  MSSA pneumonia. Patient with persistent fevers.
   Torso CT without indication of loculation/abscess. No evidence of
   cholecystitis. Sputum gram stain only shows yeast.
   -          Continue Nafcillin for total 3 week course through [**2119-7-11**]
   (start date [**6-21**], Vancomycin initiation date) and levofloxacin for
   total 8 day course ([**2119-6-24**] through [**2119-7-2**])
   -          Continue Flagyl at this time
   -          Follow culture data
   -          CIS
   # HTN: HTN to 160s systolic this morning. Plan to continue betablocker,
   add lasix gtt as above and start hydral 10 mg po q6.
   #. Coagulopathy:  INR trending downwards appropriately.
   #. Hyperbilirubinemia:  Direct. Improving. This may be secondary to
   cholestasis in setting of acute illness or due to Zosyn earlier in his
   course. No evidence of cholecystitis on u/s..
   #. Acute renal failure:  Baseline 1.0. Creatinine stable at 2.9, likely
   prerenal and ATN given sepsis; expect improvement as patient continues
   to autodiurese
   -          Renally dose meds
   -          I/O goal neg. 1 L. Lasix gtt to achieve goal.
   #. s/p NSTEMI: Cath showed clean coronaries. Repeat TTE with EF 65% and
   no evidence of aneurysm of focal wall motion abnls. Likely demand
   ischemia in the setting of pneumonia.
   -          Continue ASA
   -          Restarted low-dose propranolol per home regimen
   -          Hold Plavix and anticoagulation at this time since no
   aneurysm or focal wall motion abnl on repeat TTE
   -          Continue statin
   8. PUMP:  TTE initially with newly depressed EF 35-40% with
   inferolateral and apical hypokinesis. On repeat TTE on [**2119-6-28**], normal
   EF without wall motion abnormalities. Thus, no indication for
   anticoagulation at this time.
   ICU Care
   Nutrition:  Speech and Swallow c/s requested. NPO for now. Pulled out
   NG tube yesterday
   Glycemic Control:  Blood glucose currently well-controlled
   Lines:
   Arterial Line - [**2119-6-24**] 11:29 PM
   Multi Lumen - [**2119-6-25**] 02:49 AM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:  H2 blocker
   VAP:  not intubated
   Comments:
   Communication:  Wife at bedside daily
   Code status: Full code
   Disposition: CCU care for now

2119-07-01 06:56:00 Physician Resident Progress Note
TITLE:
   SUBJ: Pt states feeling
excellent
   24 Hour Events:
   [**2119-6-30**]:
   - Required Shovel FM for hypoxia, large A-A, resp. alkalosis in AM.
   Started on Mucomyst and Albutrol nebs per pulmonary. Subsequently abg
   improved to 7.43/33/81/23 from 7.48/31/60/23
   - Re-started Lasix drip at 8 per hour; goal 1L negative. Negative 1.2 L
   at MN
   - 1500 lytes and Cr showed 2.9 (Am Cr = 2.9).
   - Pureed Diet with alt sips and bites initiated per S and S
   - Added Hydralazine for improved afterload control. SBPs improved 120s
   to 150s. Amlodipine allergy confirmed as real. Reaction is HTN, facial
   swelling, and erythema.
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2119-6-30**] 04:39 PM
   Metronidazole - [**2119-6-30**] 10:26 PM
   Nafcillin - [**2119-7-1**] 04:44 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-7-1**] 12:00 AM
   Other medications:
   Changes to medical and family history: No changes at this time.
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes at this time.
   Flowsheet Data as of  [**2119-7-1**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 75 (69 - 84) bpm
   BP: 149/61(82) {124/59(80) - 152/65(88)} mmHg
   RR: 26 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 89 kg
   Height: 72 Inch
             Total In:
                                                                  1,842 mL
                                                                    428 mL
   PO:
                                                                    300 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,432 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  3,185 mL
                                                                  1,150 mL
   Urine:
                                                                  2,085 mL
                                                                  1,150 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                 -1,343 mL
                                                                   -722 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: 7.43/33/81.[**Numeric Identifier **]/20/0
   PaO2 / FiO2: 162
   Physical Examination
   General:  NAD, Follows commands, A and O x2
   Head, Ears, Nose, Throat:  Eccymosis on lips (stable)
   Cardiovascular: RRR, no m/r/g, No JVP appreciated
   Chest:   Anterior trace carckles upper lung fields.
   Abd:   Moderately distended, nontender, normoactive bowel sounds
   Ext:  right > left upper extremity edema; no lower extremity edema;
   radial, DP pulses 2+
   Skin:  Right buttock with dressing
   Labs / Radiology
   419 K/uL
   10.7 g/dL
   127 mg/dL
   2.7 mg/dL
   20 mEq/L
   3.2 mEq/L
   51 mg/dL
   110 mEq/L
   145 mEq/L
   31.2 %
   14.0 K/uL
        [image002.jpg]
                             [**2119-6-29**]  01:41 PM
                             [**2119-6-29**]  04:41 PM
                             [**2119-6-29**]  04:54 PM
                             [**2119-6-30**]  04:00 AM
                             [**2119-6-30**]  04:15 AM
                             [**2119-6-30**]  06:13 AM
                             [**2119-6-30**]  09:02 AM
                             [**2119-6-30**]  02:32 PM
                             [**2119-6-30**]  02:43 PM
                             [**2119-7-1**]  04:14 AM
   WBC
   10.7
   14.0
   Hct
   27.9
   31.2
   Plt
   349
   419
   Cr
   2.9
   2.9
   2.9
   2.7
   TCO2
   20
   24
   20
   23
   24
   23
   Glucose
   111
   105
   127
   Other labs: PT / PTT / INR:15.1/45.8/1.3, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:32/75, Alk Phos / T Bili:60/2.7,
   Differential-Neuts:56.0 %, Band:0.0 %, Lymph:30.0 %, Mono:6.0 %,
   Eos:6.0 %, Fibrinogen:620 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.3
   g/dL, LDH:348 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 KNOWLEDGE DEFICIT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALCOHOL ABUSE
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 PULMONARY EDEMA
   82M with hypertension, essential tremor admitted with NSTEMI, now with
   MSSA pneumonia complicated by sepsis, ARDS.
   #. Hypoxic respiratory failure:  Secondary to multilobar pneumonia.
   Extubated Thursday, with hypoxemia and lowering CO2. Respiratory
   alkalosis likely due tachypnea in setting of hypoxemia.
   -          Pneumonia treatment as below
   -          Albuterol nebs and mucomyst
   -          Diurese to help improve oxygenation. Started Lasix gtt at
   8mg/hr yesterday with goal net negative 1300 over last 24. Con
t goal
   negative 1L.
   -          Appreciate Pulm input
   #. Pneumonia/sepsis:  MSSA pneumonia. Patient febrile to 99.1
   overnihgt, WBC at 14.0 from 10.7. Torso CT without indication of
   loculation/abscess. No evidence of cholecystitis. Sputum gram stain
   only shows yeast.
   -          Continue Nafcillin for total 3 week course through [**2119-7-11**]
   (start date [**6-21**], Vancomycin initiation date) and levofloxacin for
   total 8 day course ([**2119-6-24**] through [**2119-7-2**])
   -          Continue Flagyl at this time
   -          Follow culture data
   -          CIS
   # HTN: Improved overnight with hydralazine to 124-154 systolic on PO
   Hydralazine, Lasix and BB.
   #. Coagulopathy:  INR trending downwards appropriately.
   #. Hyperbilirubinemia:  Direct. Improving. 3.8
 2.7. This may be
   secondary to cholestasis in setting of acute illness or due to Zosyn
   earlier in his course. No evidence of cholecystitis on u/s..
   #. Acute renal failure:  Baseline 1.0. Creatinine stable at 2.9
 2.7,
   likely prerenal and ATN given sepsis; expect improvement as patient
   continues to autodiurese
   -          Renally dose meds
   -          I/O goal neg. 1 L. Lasix gtt to achieve goal.
   #. s/p NSTEMI: Cath showed clean coronaries. Repeat TTE with EF 65% and
   no evidence of aneurysm of focal wall motion abnls. Likely demand
   ischemia in the setting of pneumonia.
   -          Continue ASA
   -          Restarted low-dose propranolol per home regimen
   -          Hold Plavix and anticoagulation at this time since no
   aneurysm or focal wall motion abnl on repeat TTE
   -          Continue statin
   8. PUMP:  TTE initially with newly depressed EF 35-40% with
   inferolateral and apical hypokinesis. On repeat TTE on [**2119-6-28**], normal
   EF without wall motion abnormalities. Thus, no indication for
   anticoagulation at this time.
   ICU Care
   Nutrition:  Speech and Swallow c/s requested. NPO for now. Pulled out
   NG tube yesterday
   Glycemic Control:  Blood glucose currently well-controlled
   Lines:
   Arterial Line - [**2119-6-24**] 11:29 PM
   Multi Lumen - [**2119-6-25**] 02:49 AM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:  H2 blocker
   VAP:  not intubated
   Comments:
   Communication:  Wife at bedside daily
   Code status: Full code
   Disposition: CCU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2119-6-24**] 11:29 PM
   Multi Lumen - [**2119-6-25**] 02:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2859**].
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2119-7-1**] 13:34 ------

2119-07-02 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2119-7-1**] 11:07 AM
 MULTI LUMEN - STOP [**2119-7-1**] 05:06 PM
   - Levaquin course 8 days completed
   - Stopped Hydral and started Captopril
   - Repleted K and Mg
   - Stopped Lasix
   - Updated family
   - Pulled CVL
   - I/O - Goal neg 1 L
   - Resent c diff
   - This morning, patient with hypertension (sBP 210s) and respiratory
   distress (RR40s). In distress, crackles on exam, tachycardic. Given
   hydralazine 10mg IV x1, nitro gtt, Lasix 80mg IV x1. CXR similar to
   previous day, except for decreased lung markings left upper lung field
   and ?increased congestion right lung field. Tried on BiPAP
 patient
   not able to tolerate. Given morphine allergy, given low dose dilaudid
   (0.5mg IV x1).
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2119-6-30**] 04:39 PM
   Metronidazole - [**2119-6-30**] 10:26 PM
   Nafcillin - [**2119-7-2**] 04:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-7-2**] 12:57 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   In distress.
   Flowsheet Data as of  [**2119-7-2**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 82 (74 - 93) bpm
   BP: 162/67(102) {104/51(70) - 197/92(130)} mmHg
   RR: 21 (20 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 89 kg
   Height: 72 Inch
             Total In:
                                                                  1,319 mL
                                                                    269 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,259 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                    510 mL
   Urine:
                                                                  3,700 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,381 mL
                                                                   -241 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: 7.47/31/63/22/0
   PaO2 / FiO2: 126
   Physical Examination (at time of flash pulmonary edema)
   General:  In distress, tachypneic, using accessory muscles
   Head, Ears, Nose, Throat:  Eccymosis on lips (stable)
   Cardiovascular: Tachycardic, no m/r/g
   Chest:   Bibasilar crackles, 1/3 up lung fields bilaterally
   Abd:   Moderately distended, nontender, normoactive bowel sounds
   Ext:  Right > left upper extremity edema; radial, DP pulses 2+
   Labs / Radiology
   405 K/uL
   10.1 g/dL
   126 mg/dL
   2.7 mg/dL
   22 mEq/L
   3.5 mEq/L
   48 mg/dL
   113 mEq/L
   148 mEq/L
   29.8 %
   13.5 K/uL
        [image002.jpg]
   Ca: 8.2 Mg: 2.0 P: 3.2
                             [**2119-6-30**]  04:15 AM
                             [**2119-6-30**]  06:13 AM
                             [**2119-6-30**]  09:02 AM
                             [**2119-6-30**]  02:32 PM
                             [**2119-6-30**]  02:43 PM
                             [**2119-7-1**]  04:14 AM
                             [**2119-7-1**]  02:22 PM
                             [**2119-7-1**]  04:28 PM
                             [**2119-7-2**]  04:56 AM
                             [**2119-7-2**]  05:02 AM
   WBC
   14.0
   13.5
   Hct
   31.2
   29.8
   Plt
   419
   405
   Cr
   2.9
   2.7
   2.7
   2.7
   TCO2
   20
   23
   24
   23
   23
   23
   Glucose
   127
   153
   126
   Other labs: PT / PTT / INR:15.1/45.8/1.3, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:32/75, Alk Phos / T Bili:60/2.7,
   Differential-Neuts:56.0 %, Band:0.0 %, Lymph:30.0 %, Mono:6.0 %,
   Eos:6.0 %, Fibrinogen:620 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.3
   g/dL, LDH:348 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 KNOWLEDGE DEFICIT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALCOHOL ABUSE
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 PULMONARY EDEMA
   82M with hypertension, essential tremor admitted with NSTEMI, now with
   MSSA pneumonia complicated by sepsis, ARDS; extubated [**2119-6-29**].
   #. Hypoxic respiratory failure:  Secondary to multilobar pneumonia.
   Extubated Thursday, with hypoxemia and lowering CO2. Respiratory
   alkalosis likely due tachypnea in setting of hypoxemia.
        Flash pulmonary edema this his morning, in setting of
   hypertension. Unclear if hypertension preceded respiratory distress.
   Other possibilities include mucus plug or pulmonary embolism. ACS a
   possibility as well. With all above interventions, patient now with
   improved respiratory rate, O2 saturation on facemask; by ABG, patient
   is not becoming hypercarbic.
   -          Serial ABGs
   -          Lasix bolus as needed
 goal negative 500cc today; patient
   responded well to Lasix 80mg IV this morning
   -          Pneumonia treatment as below
   -          Albuterol nebs and mucomyst
   -          Appreciate pulmonary input
   -          Recheck chest x-ray to reassess for decreased lung markings
   in left upper lobe; no frank Pneumothorax is seen
   #. Pneumonia/sepsis:  MSSA pneumonia. Patient febrile to 99.1
   overnihgt, WBC at 14.0 from 10.7. Torso CT without indication of
   loculation/abscess. No evidence of cholecystitis. Sputum gram stain
   only shows yeast.
   -          Continue Nafcillin for total 3 week course through [**2119-7-11**]
   (start date [**6-21**], Vancomycin initiation date)
   -          Levaquin completed
   -          Discontinue flagyl as no clear indication of anaerobic
   infection at this time
   -          Follow culture data
   -          CIS
   # HTN:  Continue propranolol; holding Captopril for now given increase
   in BP with starting ACE inhibitor
 concern for renal artery stenosis
   (renal artery ultrasound ordered); start hydralazine 10mg IV Q6 hours
   #. Coagulopathy:  INR trending downwards appropriately.
   #. Hyperbilirubinemia:  Direct. Improving. 3.8
 2.7. This may be
   secondary to cholestasis in setting of acute illness or due to Zosyn
   earlier in his course. No evidence of cholecystitis on u/s..
   #. Acute renal failure:  Baseline 1.0. Creatinine stable at 2.7.
   Monitor
   -          Renally dose meds
   #. s/p NSTEMI: Cath showed clean coronaries. Repeat TTE with EF 65% and
   no evidence of aneurysm of focal wall motion abnls. Likely demand
   ischemia in the setting of pneumonia.
   -          Continue ASA
   -          Continue propranolol per home regimen
   -          Hold Plavix and anticoagulation at this time since no
   aneurysm or focal wall motion abnl on repeat TTE
   -          Continue statin
   8. PUMP:  TTE initially with newly depressed EF 35-40% with
   inferolateral and apical hypokinesis. On repeat TTE on [**2119-6-28**], normal
   EF without wall motion abnormalities. Thus, no indication for
   anticoagulation at this time.
   ICU Care
   Nutrition:  Modified diet (per speech therapy recs)
   Glycemic Control:
   Lines:
   Arterial Line - [**2119-6-24**] 11:29 PM
   PICC Line - [**2119-7-1**] 11:07 AM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:  Taking POs
   VAP:  Not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-07-02 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2119-7-1**] 11:07 AM
 MULTI LUMEN - STOP [**2119-7-1**] 05:06 PM
   - Levaquin course 8 days completed
   - Stopped Hydral and started Captopril
   - Repleted K and Mg
   - Stopped Lasix
   - Updated family
   - Pulled CVL
   - I/O - Goal neg 1 L
   - Resent c diff
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2119-6-30**] 04:39 PM
   Metronidazole - [**2119-6-30**] 10:26 PM
   Nafcillin - [**2119-7-2**] 04:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-7-2**] 12:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-7-2**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 82 (74 - 93) bpm
   BP: 162/67(102) {104/51(70) - 197/92(130)} mmHg
   RR: 21 (20 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 89 kg
   Height: 72 Inch
             Total In:
                                                                  1,319 mL
                                                                    275 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,259 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                    510 mL
   Urine:
                                                                  3,700 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,381 mL
                                                                   -236 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: 7.47/31/63/22/0
   PaO2 / FiO2: 126
   Physical Examination
   Labs / Radiology
   405 K/uL
   10.1 g/dL
   126 mg/dL
   2.7 mg/dL
   22 mEq/L
   3.5 mEq/L
   48 mg/dL
   113 mEq/L
   148 mEq/L
   29.8 %
   13.5 K/uL
        [image002.jpg]
                             [**2119-6-30**]  04:15 AM
                             [**2119-6-30**]  06:13 AM
                             [**2119-6-30**]  09:02 AM
                             [**2119-6-30**]  02:32 PM
                             [**2119-6-30**]  02:43 PM
                             [**2119-7-1**]  04:14 AM
                             [**2119-7-1**]  02:22 PM
                             [**2119-7-1**]  04:28 PM
                             [**2119-7-2**]  04:56 AM
                             [**2119-7-2**]  05:02 AM
   WBC
   14.0
   13.5
   Hct
   31.2
   29.8
   Plt
   419
   405
   Cr
   2.9
   2.7
   2.7
   2.7
   TCO2
   20
   23
   24
   23
   23
   23
   Glucose
   127
   153
   126
   Other labs: PT / PTT / INR:15.1/45.8/1.3, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:32/75, Alk Phos / T Bili:60/2.7,
   Differential-Neuts:56.0 %, Band:0.0 %, Lymph:30.0 %, Mono:6.0 %,
   Eos:6.0 %, Fibrinogen:620 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.3
   g/dL, LDH:348 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 KNOWLEDGE DEFICIT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALCOHOL ABUSE
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 PULMONARY EDEMA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2119-6-24**] 11:29 PM
   PICC Line - [**2119-7-1**] 11:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-07-03 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2119-7-2**] 08:15 AM
 NON-INVASIVE VENTILATION - STOP [**2119-7-2**] 03:33 PM
 BLOOD CULTURED - At [**2119-7-3**] 12:30 AM
   BCs x 2 sent
 URINE CULTURE - At [**2119-7-3**] 12:30 AM
 EKG - At [**2119-7-3**] 04:46 AM
 FEVER - 101.4
F - [**2119-7-3**] 04:00 AM
   - Captopril discontinued given concern RAS; hydralazine 10mg IV Q6
   hours started in place; renal ultrasound for [**2119-7-3**] to evaluate for
   renal artery stenosis
   - Repeat CXR - no pneumothorax
   - Flagyl discontinued
   - Hypernatremic to 149; written for D5W at 125 ml/hr for 2000ml
   - 6pm:  Hydralazine 10mg IV x1 (sBP 170)
   - 10pm:  Hydralazine 10mg IV x1 (sBP 160s)
   - 12am:  T 101.3 Urine culture, blood cultures drawn
   - 4am:  Persistent fever (101.4), now with respiratory distress
   (tachypnea, O2 saturation mid-90s on 6L FM). Tachycardic to 100, BP
   stable (sBP 90-110s). Auscultation with upper airway noise, bibasilar
   crackles. Given Lasix 80mg IV, nebulizer, suctioning with improvement.
   Blood gas with stable respiratory alkalosis.
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2119-6-30**] 04:39 PM
   Nafcillin - [**2119-7-3**] 04:00 AM
   Metronidazole - [**2119-7-3**] 06:30 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2119-7-2**] 10:10 PM
   Heparin Sodium (Prophylaxis) - [**2119-7-3**] 12:00 AM
   Furosemide (Lasix) - [**2119-7-3**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies chest pain, shortness of breath, abdominal pain.
   Flowsheet Data as of  [**2119-7-3**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 79 (68 - 103) bpm
   BP: 120/50(71) {95/40(58) - 210/96(137)} mmHg
   RR: 32 (19 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 89 kg
   Height: 72 Inch
             Total In:
                                                                  1,593 mL
                                                                  1,153 mL
   PO:
             TF:
   IVF:
                                                                  1,593 mL
                                                                  1,153 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    525 mL
   Urine:
                                                                  2,380 mL
                                                                    525 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,087 mL
                                                                    628 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 98%
   ABG: 7.49/28/103/20/0
   PaO2 / FiO2: 206
   Physical Examination
   General:  AOx3; comfortable; nasal cannula in place
   HEENT:  Eccymosis on lips (stable)
   Cardiovascular: RRR, no m/r/g
   Chest:  CTA bilaterally; no wheezes, rales, or rhonchi appreciated
   Abd: Soft, nontender, normoactive bowel sounds
   Ext:  No lower extremity edema; radial, DP pulses 2+
   Skin:  Dressing at right buttock
   Labs / Radiology
   371 K/uL
   10.3 g/dL
   151 mg/dL
   2.8 mg/dL
   20 mEq/L
   3.1 mEq/L
   46 mg/dL
   113 mEq/L
   146 mEq/L
   30.2 %
   14.7 K/uL
        [image002.jpg]
   Ca: 8.1 Mg: 1.7 P: 3.3
   N:47 Band:8 L:22 M:2 E:2 Bas:1 Atyps: 18
   PT: 16.0
   PTT: 36.8
   INR: 1.4
                             [**2119-7-2**]  04:56 AM
                             [**2119-7-2**]  05:02 AM
                             [**2119-7-2**]  08:02 AM
                             [**2119-7-2**]  09:18 AM
                             [**2119-7-2**]  02:30 PM
                             [**2119-7-2**]  04:45 PM
                             [**2119-7-2**]  05:04 PM
                             [**2119-7-3**]  12:41 AM
                             [**2119-7-3**]  02:55 AM
                             [**2119-7-3**]  04:36 AM
   WBC
   13.5
   14.7
   Hct
   29.8
   30.2
   Plt
   405
   371
   Cr
   2.7
   2.8
   2.8
   TCO2
   23
   24
   23
   24
   25
   23
   22
   Glucose
   126
   110
   151
   Other labs: PT / PTT / INR:16.0/36.8/1.4, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:32/75, Alk Phos / T Bili:60/2.7,
   Differential-Neuts:47.0 %, Band:8.0 %, Lymph:22.0 %, Mono:2.0 %,
   Eos:2.0 %, Fibrinogen:620 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.3
   g/dL, LDH:348 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Blood cultures remain no growth to date.
   Urine cultures remain no growth to date.
   C. dificile toxin negative x2.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 KNOWLEDGE DEFICIT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALCOHOL ABUSE
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 PULMONARY EDEMA
   82M with hypertension, essential tremor admitted with NSTEMI, now with
   MSSA pneumonia complicated by sepsis, ARDS; extubated [**2119-6-29**].
   #. Hypoxic respiratory failure:  Secondary to multilobar pneumonia.
   Extubated [**2119-6-29**]. Overall has been improving. On [**2119-7-2**] experienced
   respiratory distress secondary to hypertension
 flash pulmonary edema.
   This improved with nitro gtt, Lasix 80mg IV, dilaudid 0.5mg IV x1
   (given allergy to morphine), and CPAP. On [**2119-7-3**] experienced
   respiratory distress secondary to mucous plugging. Improved with
   suctioning. At this time still requiring supplemental oxygen; 6L nasal
   canula.
   -          Emphasis on blood pressure control and aggressive chest PT,
   suctioning
   -          Serial ABGs
   -          Lasix bolus as needed
 goal negative 500cc today; patient
   responds well to Lasix 80mg IV
   -          Pneumonia treatment as below
   -          Albuterol nebs
   -          D/c mucomyst given tachyphylaxis
   -          Appreciate pulmonary input
   #. Pneumonia/sepsis:  MSSA pneumonia. Patient febrile to 101.4
   overnight. WBC continues to rise, now with bandemia. Concern for
   worsening infection, although not apparent based on CXR. Flagyl was
   discontinued [**2119-7-2**]; unclear if this was treating a particular
   pathogen, but given worsened fevers and bandemia overnight, Flagyl was
   restarted. Torso CT from several days ago without indication of
   loculation/abscess. No evidence of cholecystitis. Sputum gram stain
   only shows yeast.
   -          Continue Nafcillin for total 3 week course through [**2119-7-11**]
   (start date [**6-21**], Vancomycin initiation date)
   -          Levaquin completed
   -          Flagyl restarted
   -          Repeat CT chest to assess for loculation
   -          Follow culture data
   -          CIS
   # HTN:  Continue propranolol; holding Captopril for now given increase
   in BP with starting ACE inhibitor
 concern for renal artery stenosis
   (renal artery ultrasound ordered); increase hydralazine for better BP
   control
   #. Coagulopathy:  INR trending downwards appropriately.
   #. Hyperbilirubinemia:  Direct. Improving. 3.8
 2.7. This may be
   secondary to cholestasis in setting of acute illness or due to Zosyn
   earlier in his course. No evidence of cholecystitis on u/s.
   #. Acute renal failure:  Likely related to ATN during previous
   hypotensive episodes, although we would expect to see improvement by
   this time. Baseline 1.0. Creatinine stable at 2.7. Monitor
   -          Renally dose meds
   #. s/p NSTEMI: Cath showed clean coronaries. Repeat TTE with EF 65% and
   no evidence of aneurysm of focal wall motion abnls. Likely demand
   ischemia in the setting of pneumonia.
   -          Continue ASA
   -          Continue propranolol per home regimen
   -          Hold Plavix and anticoagulation at this time since no
   aneurysm or focal wall motion abnl on repeat TTE
   -          Continue statin
   8. PUMP:  TTE initially with newly depressed EF 35-40% with
   inferolateral and apical hypokinesis. On repeat TTE on [**2119-6-28**], normal
   EF without wall motion abnormalities. Thus, no indication for
   anticoagulation at this time.
   ICU Care
   Nutrition:  Modified diet (aspiration precautions)
   Glycemic Control:  Blood glucose well-controlled without hypoglycemics.
   Lines:
   Arterial Line - [**2119-6-24**] 11:29 PM
   PICC Line - [**2119-7-1**] 11:07 AM
   Prophylaxis:
   DVT:  Heparin SC TID
   Communication:  Wife, daughter
   [**Name2 (NI) 129**] status: Full code
   Disposition:  CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 1225**].
   I would add the following remarks:
   Medical Decision Making
   Spiking temperatures.  Acute respiratory distress last night likely due
   to plugging with mucus.  Obtain chest CT to look for abcess.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2119-7-3**] 09:55 ------

2119-07-04 08:53:00 Physician Resident Progress Note
Chief Complaint:
   - CT r/o PNA or abscess - Improved multifocal consolidations, no
   evidence of lung abscess, decrease in size of bilateral pleural
   effusions.
   - Renal u/s to r/o RAS - Limited study secondary to the patient's
   inability to comply with breath-holding maneuvers. No evidence of
   hydronephrosis or renal calculi noted. 3.3 x 4.8-cm simple cyst within
   the upper pole of the right kidney.
   - Returned from Rads Hypotensive. Hydralazine 20 mg IV Q6 downtitrated
   to 10 mg IV daily.
   - PM (3pm) lytes - Repleted K. Cr stable at 2.9.
   - I/O even to negative 500 cc. Holding further Lasix for now.
   - Starting CPAP at night in case OSA leading to flash pulm edema. BP
   under better control.
   - d/c aline
   - Family updated
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2119-7-3**] 06:56 PM
   Nafcillin - [**2119-7-4**] 04:10 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2119-7-3**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2119-7-3**] 04:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-7-4**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 93 (72 - 96) bpm
   BP: 142/97(106) {104/42(64) - 142/116(123)} mmHg
   RR: 21 (15 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 89 kg
   Height: 72 Inch
             Total In:
                                                                  2,520 mL
                                                                    339 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  2,220 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    315 mL
   Urine:
                                                                  1,785 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -65 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General:  AOx3; comfortable; nasal cannula in place
   HEENT:  Eccymosis on lips (stable)
   Cardiovascular: RRR, no m/r/g
   Chest:  CTA bilaterally; no wheezes, rales, or rhonchi appreciated
   Abd: Soft, nontender, normoactive bowel sounds
   Ext:  No lower extremity edema; radial, DP pulses 2+
   Skin:  Dressing at right buttock
   Labs / Radiology
   339 K/uL
   9.1 g/dL
   98 mg/dL
   2.7 mg/dL
   20 mEq/L
   3.6 mEq/L
   44 mg/dL
   119 mEq/L
   152 mEq/L
   27.4 %
   11.5 K/uL
        [image002.jpg]
                             [**2119-7-2**]  08:02 AM
                             [**2119-7-2**]  09:18 AM
                             [**2119-7-2**]  02:30 PM
                             [**2119-7-2**]  04:45 PM
                             [**2119-7-2**]  05:04 PM
                             [**2119-7-3**]  12:41 AM
                             [**2119-7-3**]  02:55 AM
                             [**2119-7-3**]  04:36 AM
                             [**2119-7-3**]  04:03 PM
                             [**2119-7-4**]  04:25 AM
   WBC
   14.7
   11.5
   Hct
   30.2
   27.4
   Plt
   371
   339
   Cr
   2.8
   2.8
   2.9
   2.7
   TCO2
   24
   23
   24
   25
   23
   22
   Glucose
   110
   151
   100
   98
   Other labs: PT / PTT / INR:16.5/36.0/1.5, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:32/75, Alk Phos / T Bili:60/2.7,
   Differential-Neuts:57.0 %, Band:0.0 %, Lymph:26.0 %, Mono:14.0 %,
   Eos:1.0 %, Fibrinogen:620 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.3
   g/dL, LDH:348 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   82M with hypertension, essential tremor admitted with NSTEMI, now with
   MSSA pneumonia complicated by sepsis, ARDS; extubated [**2119-6-29**].
   #. Hypoxic respiratory failure:  Secondary to multilobar pneumonia.
   Extubated [**2119-6-29**]. Overall has been improving. On [**2119-7-2**] experienced
   respiratory distress secondary to hypertension
 flash pulmonary edema.
   This improved with nitro gtt, Lasix 80mg IV, dilaudid 0.5mg IV x1
   (given allergy to morphine), and CPAP. On [**2119-7-3**] experienced
   respiratory distress secondary to mucous plugging. Improved with
   suctioning. At this time still requiring supplemental oxygen;50% shovel
   mask.
   -          Emphasis on blood pressure control and aggressive chest PT,
   suctioning
   -          Serial ABGs
   -          Lasix bolus as needed
 goal negative 500cc today; patient
   responds well to Lasix 80mg IV
   -          Pneumonia treatment as below
   -          Albuterol nebs
   -          D/c mucomyst given tachyphylaxis
   -          Appreciate pulmonary input
   #. Pneumonia/sepsis:  MSSA pneumonia. Afebrile since yesterday
   afternoon and WBC ct trending down and bandemia resolved.CT chest
   yesterday showed improved multifocal consolidations, no evidence of
   lung abscess. Sputum gram stain only shows yeast.
   -          Continue Nafcillin for total 3 week course through [**2119-7-11**]
   (start date [**6-21**], Vancomycin initiation date)
   -          Levaquin completed
   -          Con t Flagyl
   -          Repeat CT chest to assess for loculation
   -          Follow culture data
   -          CIS
   # HTN:  Continue propranolol; holding Captopril for now given increase
   in BP with starting ACE inhibitor
 concern for renal artery stenosis
   (renal artery ultrasound ordered); increase hydralazine for better BP
   control
   #. Coagulopathy:  INR trending downwards appropriately.
   #. Hyperbilirubinemia:  Direct. Improving. 3.8
 2.7. This may be
   secondary to cholestasis in setting of acute illness or due to Zosyn
   earlier in his course. No evidence of cholecystitis on u/s.
   #. Acute renal failure:  Likely related to ATN during previous
   hypotensive episodes, although we would expect to see improvement by
   this time. Baseline 1.0. Creatinine stable at 2.7. Monitor
   -          Renally dose meds
   #. s/p NSTEMI: Cath showed clean coronaries. Repeat TTE with EF 65% and
   no evidence of aneurysm of focal wall motion abnls. Likely demand
   ischemia in the setting of pneumonia.
   -          Continue ASA
   -          Continue propranolol per home regimen
   -          Hold Plavix and anticoagulation at this time since no
   aneurysm or focal wall motion abnl on repeat TTE
   -          Continue statin
   8. PUMP:  TTE initially with newly depressed EF 35-40% with
   inferolateral and apical hypokinesis. On repeat TTE on [**2119-6-28**], normal
   EF without wall motion abnormalities. Thus, no indication for
   anticoagulation at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-7-1**] 11:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-07-05 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82M with hypertension, essential tremor admitted with
   NSTEMI, now with MSSA pneumonia complicated by sepsis, ARDS; extubated
   [**2119-6-29**].
   24 Hour Events:
   -BP running on the hypotensive side--?hypovolemia espec given
   hypernatremia to 152. Held off on fludis given tenous fluid status.
   Encouraging POs.
   -S and S rec pureed meats
   -Rechecked urine lytes
   -[**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6403**]- may have eaten too much. denies any nausea
   -will likely be called out to floor in am
   Allergies:
   Morphine
   Unknown;
   Amlodipine
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2119-7-5**] 04:18 AM
   Metronidazole - [**2119-7-5**] 05:51 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2119-7-4**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2119-7-5**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-7-5**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 78 (70 - 95) bpm
   BP: 135/63(81) {90/37(44) - 142/97(106)} mmHg
   RR: 20 (16 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 89 kg
   Height: 72 Inch
             Total In:
                                                                  1,840 mL
                                                                    613 mL
   PO:
                                                                    900 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  1,118 mL
                                                                    700 mL
   Urine:
                                                                  1,018 mL
                                                                    300 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    722 mL
                                                                    -87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General:  AOx3; comfortable; nasal cannula in place
   HEENT:  Eccymosis on lips (stable)
   Cardiovascular: RRR, no m/r/g
   Chest:  CTA bilaterally; no wheezes, rales, or rhonchi appreciated
   Abd: Soft, nontender, normoactive bowel sounds
   Ext:  No lower extremity edema; radial, DP pulses 2+
   Skin:  Dressing at right buttock
   Labs / Radiology
   256 K/uL
   11.9 g/dL
   90 mg/dL
   2.7 mg/dL
   20 mEq/L
   3.9 mEq/L
   44 mg/dL
   113 mEq/L
   144 mEq/L
   34.6 %
   9.8 K/uL
        [image002.jpg]
                             [**2119-7-2**]  09:18 AM
                             [**2119-7-2**]  02:30 PM
                             [**2119-7-2**]  04:45 PM
                             [**2119-7-2**]  05:04 PM
                             [**2119-7-3**]  12:41 AM
                             [**2119-7-3**]  02:55 AM
                             [**2119-7-3**]  04:36 AM
                             [**2119-7-3**]  04:03 PM
                             [**2119-7-4**]  04:25 AM
                             [**2119-7-5**]  05:23 AM
   WBC
   14.7
   11.5
   9.8
   Hct
   30.2
   27.4
   34.6
   Plt
   371
   339
   256
   Cr
   2.8
   2.8
   2.9
   2.7
   2.7
   TCO2
   23
   24
   25
   23
   22
   Glucose
   110
   151
   100
   98
   90
   Other labs: PT / PTT / INR:16.7/34.9/1.5, CK / CKMB /
   Troponin-T:339/6/0.51, ALT / AST:32/75, Alk Phos / T Bili:60/2.7,
   Differential-Neuts:57.0 %, Band:0.0 %, Lymph:26.0 %, Mono:14.0 %,
   Eos:1.0 %, Fibrinogen:620 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.3
   g/dL, LDH:348 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   82M with hypertension, essential tremor admitted with NSTEMI, now with
   MSSA pneumonia complicated by sepsis, ARDS; extubated [**2119-6-29**].
   #. Hypoxic respiratory failure:  Secondary to multilobar pneumonia.
   Extubated [**2119-6-29**]. Overall has been improving. On [**2119-7-3**] experienced
   respiratory distress secondary to mucous plugging. Improved with
   suctioning. At this time still requiring supplemental oxygen;50% shovel
   mask.
   -          Cont CPAP overnight
   -          Emphasis on blood pressure control and aggressive chest PT,
   suctioning
   -          Serial ABGs
   -          Lasix bolus as needed
 goal negative 500cc today; patient
   responds well to Lasix 80mg IV
   -          Pneumonia treatment as below
   -          Albuterol nebs
   -          Appreciate pulmonary input
   #. Pneumonia/sepsis:  MSSA pneumonia. Afebrile since yesterday
   afternoon and WBC ct trending down and bandemia resolved.CT chest
   yesterday showed improved multifocal consolidations, no evidence of
   lung abscess. Sputum gram stain only shows yeast.
   -          Continue Nafcillin for total 3 week course through [**2119-7-11**]
   (start date [**6-21**], Vancomycin initiation date)
   -          Con t Flagyl through [**2119-7-7**]
   -          Follow culture data
   -          CIS
   # HTN: BP remains on the normotensive to hypotensive side this morning.
   He may be hypovolemic which is also indicated by hypernatremia.  He is
   not febrile but does have known infectious source which could also be
   contributing.
   - Give 1L NS bolus
   - Cont ABX for PNA and cx if spikes
   - BP med changed from IV to PO hydral
holding parameters in effect
   - cont to monitor
   .
   #. Coagulopathy:  INR trending downwards appropriately.
   .
   #. Acute renal failure:  Likely related to ATN during previous
   hypotensive episodes, although we would expect to see improvement by
   this time.Cr around 2 on admission (baseline not certain). Creatinine
   stable at 2.7. Monitor
   -          Recheck urine lytes
   -          Renally dose meds
   #. s/p NSTEMI: Cath showed clean coronaries. Repeat TTE with EF 65% and
   no evidence of aneurysm of focal wall motion abnls. Likely demand
   ischemia in the setting of pneumonia.
   -          Continue ASA
   -          Continue propranolol per home regimen
   -          Hold Plavix and anticoagulation at this time since no
   aneurysm or focal wall motion abnl on repeat TTE
   -          Continue statin
   8. PUMP:  TTE initially with newly depressed EF 35-40% with
   inferolateral and apical hypokinesis. On repeat TTE on [**2119-6-28**], normal
   EF without wall motion abnormalities. Thus, no indication for
   anticoagulation at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-7-1**] 11:07 AM
   Prophylaxis:
   DVT:  Heparin SC TID
   Communication:  Wife, daughter
   [**Name2 (NI) 129**] status: Full code
   Disposition:  CCU for now